US04668682
A mixture of 0.62 g (2 mmol) of N-(2,5-dimethoxyphenylacetyl) anthranilic acid and 0.36 g (3 mmol) of 2-dimethylaminoethylamine in xylene (5 ml) were heated under reflux for 24 hours. After cooling, the resulting reaction mixture was purified by silica gel column chromatography (eluent; chloroform: ethanol=98:2) to obtain 0.10 g (yield 14%) of 2-(2,5-dimethoxyphenylmethyl)-3-(2-dimethylaminoethyl)-4(3H) quinazolinone as an oily substance. 0.10 g of the oily substance thus obtained was dissolved in ethanol (1 ml) and then a 7% HCl-ethanol solution (0.2 mol) was added thereto and the resulting reaction mixture was cooled overnight. The resulting colorless precipitates were collected by filtration to obtain 0.1 g of the hydrochloride which is the desired compound. This hydrochloride coincides with the compound obtained in Example 16 in melting point and infrared absorption spectrum.

reactant | N-(2,5-dimethoxyphenylacetyl) anthranilic acid | 2 mmol, 0.62 g | COC1=C(C=C(C=C1)OC)CC(=O)NC=1C(C(=O)O)=CC=CC1 | C17H17NO5
reactant | 2-dimethylaminoethylamine | 3 mmol, 0.36 g | CN(CCN)C | C4H12N2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2,5-dimethoxyphenylmethyl)-3-(2-dimethylaminoethyl)-4(3H) quinazolinone | 0.10 g, yield 14% | COC1=C(C=C(C=C1)OC)CC1=NC2=CC=CC=C2C(N1CCN(C)C)=O | C21H25N3O3
